### PR TITLE
feat: add Erdős Problem 1054

### LINKED ISSUE #1097: Erdős Problem 1054
### What is the conjecture

https://www.erdosproblems.com/1054

  Let $f(n)$ be the minimal integer $m$ such that $n$ is the sum of the $k$ smallest divisors of $m$ for some $k\geq 1$.

Is it true that $f(n)=o(n)$? Or is this true only for almost all $n$, and $\limsup f(n)/n=\infty$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Paul-Lez**
Fixes #1097

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1054.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+/-- Let $f(n)$ be the minimal integer $m$ such that $n$ is the sum of the $k$ smallest divisors
+of $m$ for some $k\geq 1$. Is it true that $f(n)=o(n)$?-/
+@[category research open, AMS 11]
+theorem erdos_1054.parts.i : (fun n ↦ (f n : ℝ)) =o[atTop] (fun n ↦ (n : ℝ)) ↔ answer(sorry) := by
+  sorry
+
+/-- Let $f(n)$ be the minimal integer $m$ such that $n$ is the sum of the $k$ smallest divisors
+of $m$ for some $k\geq 1$. Is it true that $f(n)=o(n)$ for almost all $n$? -/
+@[category research open, AMS 11]
+theorem erdos_1054.parts.ii : ∃ (A : Set ℕ), A.HasDensity 1 ∧
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1054.lean]: I suppose for parts.ii and parts.iii one could use \iff answer(sorry), since they are phrased as questions? (I'm also fine with leaving as is...)

**Review by callesonne — APPROVED** [review]
LGTM and agree with Moritz

File: FormalConjectures/ErdosProblems/1054.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+    (fun (n : A) ↦ (f ↑n : ℝ)) =o[atTop] (fun n ↦ (n : ℝ)) := by
+  sorry
+
+/-- Let $f(n)$ be the minimal integer $m$ such that $n$ is the sum of the $k$ smallest divisors
+of $m$ for some $k\geq 1$. Is it true that $\limsup f(n)/n=\infty$? -/
+@[category research open, AMS 11]
+theorem erdos_1054.parts.iii : ∃ (A : Set ℕ), A.HasDensity 1 ∧
+    atTop.limsup fun n ↦ (f n : EReal) / n = ⊤ := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/1054.lean]: Is this the same one we discussed last week?
```suggestion
    atTop.limsup (fun n ↦ (f n : EReal) / n) = ⊤ := by
```

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/1054.lean]: Good catch - fixed!
